US06677368B2
4-(4-Bromo-phenyl)-1,3-dihydro-indol-2-one
To the suspension of 4-(4-bromo-phenyl)-1H-indole (1.20 g, 4.41 mmol) in t-BuOH-ethanol-acetic acid (3:2:1) (54 mL) was added pyridinium tribromide (4.23 g, 13.23 mmol)) portionwise. The mixture was stirred at 27° C. for 3 hours, and then to the mixture was added acetic acid (30 mL). Zinc dust was added to the reaction mixture portionwise until the color changed from deep red to light yellow, and the reaction mixture was stirred at room temperature for one hour. The unreacted zinc dust was filtered off and washed with ethanol. The filtrate was concentrated, and the syrupy residue was suspended in water (300 mL) for 0.5 hour. The solid product was precipitated out, filtered, and washed repeatedly with water to remove the zinc salt and pyridine salt. After high vacuum dry, a pure product (1.12 g, 88%) was obtained.

reactant | 4-(4-bromo-phenyl)-1H-indole | 4.41 mmol, 1.20 g | BrC1=CC=C(C=C1)C1=C2C=CNC2=CC=C1 | C14H10BrN
reactant | pyridinium tribromide | 13.23 mmol, 4.23 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH ethanol acetic acid | 54 mL | CC(C)(C)O.C(C)O.C(C)(=O)O
catalyst | Zinc | [Zn] | Zn
product | 4-(4-Bromo-phenyl)-1,3-dihydro-indol-2-one | 1.12 g, 88% | BrC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C14H10BrNO
